US05763489
A solution of 2-[(1,2,3,4-tetrahydro-5-ethoxycarbonylmethoxy-2-naphthyl)methyl]-6-diphenylmethyl-3(2H)-pyridazinone (0.43 g) in 1,2-dimethoxyethane (9.0 ml) and 1.0N aqueous solution of sodium hydroxide (0.85 ml) was stirred at room temperature for 5 hours. The solution was evaporated in vacuo and extracted with ethyl acetate and 1N hydrochloric acid. The organic layer was separated and washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was crystallized from n-hexane, ethyl acetate and ether to give 2-[(1,2,3,4-tetrahydro-5-carboxymethoxy-2-naphthyl)methyl]-6-diphenylmethyl-3(2H)-pyridazinone (330 mg) as a white powder. mp: 176°-178° C.

reactant | 2-[(1,2,3,4-tetrahydro-5-ethoxycarbonylmethoxy-2-naphthyl)methyl]-6-diphenylmethyl-3(2H)-pyridazinone | 0.43 g | C(C)OC(=O)COC1=C2CCC(CC2=CC=C1)CN1N=C(C=CC1=O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C32H32N2O4
reactant | sodium hydroxide | 0.85 ml | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | 9.0 ml | COCCOC | C4H10O2
product | 2-[(1,2,3,4-tetrahydro-5-carboxymethoxy-2-naphthyl)methyl]-6-diphenylmethyl-3(2H)-pyridazinone | 330 mg | C(=O)(O)COC1=C2CCC(CC2=CC=C1)CN1N=C(C=CC1=O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C30H28N2O4
